US04808605
6.5 g (23 mmol) of (S)-6-[1-(benzyloxy)formamido]heptanoic acid are added to a suspension of 3.05 g of 55% sodium hydride (70 mmol) in 200 ml of dimethylformamide and the mixture is left to react at 40° for 30 minutes. Thereafter, 13 g (90 mmol) of methyl iodide are added dropwise and the reaction mixture is heated to 70° for 1 hour. After evaporation of the solvent 120 ml of 1N agueous sodium hydroxide solution and 120 ml of ethanol are added and the reaction mixture is heated to reflux for 30 minutes. Thereafter, the mixture is evaporated to half, 100 ml of saturated aqueous sodium bicarbonate solution are added and the mixture is extracted with ethyl acetate. The aqueous phase is acidified and extracted with methylene chloride. The organic phase is dried over magnesium sulphate and evaporated. The residue (5 g) is chromatographed on silica gel with a 12:1 mixture of methylene chloride and methanol, whereby there are obtained 3.5 g (52.2%) of (S)-6-[1-(benzyloxy)-N-methylformamido]heptanoic acid, MS: M+ 293.

reactant | (S)-6-[1-(benzyloxy)formamido]heptanoic acid | 23 mmol, 6.5 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CCCCC(=O)O)C | C15H21NO4
reactant | sodium hydride | 70 mmol, 3.05 g | [H-].[Na+]
reactant | methyl iodide | 90 mmol, 13 g | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (S)-6-[1-(benzyloxy)-N-methylformamido]heptanoic acid | 3.5 g, 52.2% | C(C1=CC=CC=C1)OC(=O)N(C)[C@H](CCCCC(=O)O)C | C16H23NO4
